US04185992
bromine (32.5 g≡10.4 ml) was added over 15 minutes to a stirred mixture of (±)-1-(3-trifluoromethylphenyl)-ethanol [38 g, described by Overberger et al., Org. Synth. Coll. 3, 200 (1955)], triphenylphosphine (56 g) and dry dimethylformamide (200 ml) in an atmosphere of nitrogen. The temperature of the mixture was maintained at 40°-50° C. by ice-cooling. Further bromine was added dropwise to give a permanent orange colour and after stirring for 15 minutes the mixture was poured into a mixture of ice-water (1 liter) and hexane (500 ml). The mixture was filtered and the solid material was washed well with hexane. The hexane solutions were combined, washed with water (4×100 ml), dried over sodium sulphate and distilled to give (±)-1-(3-trifluoromethylphenyl)ethyl bromide, b.p. 98°-105° C./15 mmHg, as a clear mobile oil.

reactant | bromine | 10.4 ml, 32.5 g | BrBr | Br2
reactant | (±)-1-(3-trifluoromethylphenyl)-ethanol | 38 g | FC(C=1C=C(C=CC1)C(C)O)(F)F | C9H9F3O
reactant | triphenylphosphine | 56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | hexane | 500 ml | CCCCCC | C6H14
product | (±)-1-(3-trifluoromethylphenyl)ethyl bromide | FC(C=1C=C(C=CC1)C(C)Br)(F)F | C9H8BrF3
